US06339067B1
3-Bromo-1-(trifluoroacetamidyl)propane (4).
3-Bromopropylamine hydrobromide (2.19 g, 10.0 mmol) and triethylamine (1.67 mL, 12.0 mmol) were dissolved in 60 mL dry methylene chloride. The solution was chilled on an ice bath. Trifluoroacetic anhydride (1.69 mL, 2.51 g, 12.0 mmol) dissolved in 60 mL dry methylene chloride was added dropwise over approximately 20 minutes. The reaction was allowed to come to room temperature and was stirred overnight (approximately 18 hours). The reaction mixture was washed 1×10 mL 2% sodium bicarbonate, 1×10 mL water, and dried over magnesium sulfate. Solvent removal yielded 2.07 g (88.5%) product as a white powder: 1H-NMR (CDCl3) d 6.70 (bs, 1H), 3.55 (dt, 2H), 3.45 (t, 2H), 2.17 (tt, 2H).

reactant | 3-Bromopropylamine hydrobromide | 10.0 mmol, 2.19 g | Br.BrCCCN
reactant | triethylamine | 12.0 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 12.0 mmol, 1.69 mL, 2.51 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-1-(trifluoroacetamidyl)propane | 2.07 g, 88.5% | BrCCCNC(C(F)(F)F)=O | C5H7BrF3NO
